US06399612B1
To a stirred suspension of 4oxo-4(4-pyrazol-1-yl-phenyl)butyric acid (Sircar I., et al., Journal of Medicinal Chemistry, 1985;28:1405-13) (0.0277 g, 0.000113 mol) in absolute ethanol (0.55 mL) at room temperature was added potassium carbonate (0.010 g, 0.000072 mol) followed by a solution of hydroxylamine hydrochloride (0.010 g, 0.00014 mol) in water (0.25 mL), and the resulting mixture was stirred for 1 day. The volatiles were rotary evaporated. The residue was dissolved in methanol, silica gel (0.35 g, 230-400 mesh) was added, and the mixture was rotary evaporated to dryness. The residue was purified by chromatography on silica gel (6.0 g, 230-400 mesh) eluting with dichloromethane-methanol (12:1,25×5 mL) to give 0.0230 g of 4-hydroxyimino-4(4pyrazol-1-yl-phenyl)-butyric acid as an off-white solid; mp 128-130° C.

reactant | 4oxo-4(4-pyrazol-1-yl-phenyl)butyric acid | 0.000113 mol, 0.0277 g | O=C(CCC(=O)O)C1=CC=C(C=C1)N1N=CC=C1 | C13H12N2O3
reactant | potassium carbonate | 0.000072 mol, 0.010 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 0.00014 mol, 0.010 g | Cl.NO
solvent | ethanol | 0.55 mL | C(C)O | C2H6O
solvent | water | 0.25 mL | O | H2O
solvent | methanol | CO | CH4O
product | 4-hydroxyimino-4(4pyrazol-1-yl-phenyl)-butyric acid | 0.0230 g | ON=C(CCC(=O)O)C1=CC=C(C=C1)N1N=CC=C1 | C13H13N3O3
